US05364871
A mixture of 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole trihydrochloride (3.0 g), triethylamine (3.5 ml) and ethyl ethanesulfonylformimidate (1.5 g) in methanol (60 ml) was stirred at ambient temperature for 6.5 hours and after solvent was removed by concentration in vacuo. To the residue was added a mixture of tetrahydrofuran, ethyl acetate and water and the mixture was adjusted to pH 9.5 with 20% aqueous potassium carbonate. The separated organic layer was washed with brine and dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was purified by column chromatography on silica gel eluting with a mixture of chloroform and methanol (9:1, V/V). The eluted fractions containing the desired product were collected and evaporated in vacuo. The residue was recrystallized from a mixture of methanol, dioxane and diisopropyl ether to give 2-(diaminomethyleneamino)-4-(6-ethanesulfonyliminomethylaminomethylpyridin-2-yl)thiazole (0.88 g).

reactant | 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole trihydrochloride | 3.0 g | Cl.Cl.Cl.NCC1=CC=CC(=N1)C=1N=C(SC1)N=C(N)N
reactant | triethylamine | 3.5 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl ethanesulfonylformimidate | 1.5 g | C(C)S(=O)(=O)C(OCC)=N | C5H11NO3S
solvent | methanol | 60 ml | CO | CH4O
product | 2-(diaminomethyleneamino)-4-(6-ethanesulfonyliminomethylaminomethylpyridin-2-yl)thiazole | 0.88 g | NC(N)=NC=1SC=C(N1)C1=NC(=CC=C1)CNC=NS(=O)(=O)CC | C13H17N7O2S2
